US06403601B1
(f) 3-Cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid
A solution of methyl 3-cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylate (0.96 g, 4.46 mmol) in THF (54 mL), water (21 mL) and 1N NaOH (9.4 mL, 9.4 mmol) was stirred overnight at room temperature. The THF was removed in vacuo and the mixture acidified to pH 1with 1N HCl. The resulting precipitate was extracted with EtOAc, dried (MgSO4), filtered and concentrated to give the title compound as a white solid (0.88 g, 98%). 1H NMR (DMSO) δ 13.33 (s, 1H), 7.96 (d, 1H), 7.29 (d, 1H), 3.99 (d, 2H), 2.81 (d, 2H), 1.72 (m, 4H); MS m/z 200.1 (M−H).

reactant | methyl 3-cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 4.46 mmol, 0.96 g | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)OC | C13H13NO2
reactant | NaOH | 9.4 mmol, 1N, 9.4 mL | [OH-].[Na+]
solvent | THF | 54 mL | C1CCOC1 | C4H8O
solvent | water | 21 mL | O | H2O
product | 3-Cyano-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 0.88 g, 98% | C(#N)C=1C=C(C=2CCCCC2C1)C(=O)O | C12H11NO2
